US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 6-bromo-1-(3-chloro-4-methylphenyl)-1-hexanone are reacted and treated in the same manner as in Example 199 to give 4-amino-5-chloro-2-methoxy-N-((1-(6-(3-chloro-4-methylphenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(3-chloro-4-methylphenyl)-1-hexanone | BrCCCCCC(=O)C1=CC(=C(C=C1)C)Cl | C13H16BrClO
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(3-chloro-4-methylphenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CC(=C(C=C2)C)Cl)C=C1Cl)OC | C27H35Cl2N3O3
